US04853463
Hydrogen chloride was passed into a solution of 4.0 g of (2RS, 3S)-3-amino-2-hydroxy-5methylhexanoic acid in 50 ml of isopropyl alcohol with stirring under ice-cooling. To the reaction solution was added 100ml of benzene, and the mixture was heated under reflux for 10 minutes with removal of water as formed during the reaction using a molecular seives. The reaction mixture was evaporated under reduced pressure to obtain 5.7 g of isopropyl (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoate hydrochloride as a white powder.

reactant | Hydrogen chloride | Cl | ClH
reactant | (2RS, 3S)-3-amino-2-hydroxy-5methylhexanoic acid | 4.0 g | N[C@H](C(C(=O)O)O)CC(C)C | C7H15NO3
reactant | benzene | 100ml | C1=CC=CC=C1 | C6H6
reactant | water | O | H2O
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | isopropyl (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoate hydrochloride | 5.7 g | Cl.N[C@H](C(C(=O)OC(C)C)O)CC(C)C | InChI=1S/C10H21NO3.ClH/c1-6(2)5-8(11)9(12)10(13)14-7(3)4;/h6-9,12H,5,11H2,1-4H3;1H/t8-,9?;/m0./s1
